US07683079B2
Step D]: 1-Phenethyl-3-phenyl-piperidine-2,4-dione 4-oxime
Phenethyl-3-phenyl-piperidine-2,4-dione (781 mg), sodium acetate (1.15 g) and hydroxylamine hydrochloride (925 mg) were suspended in EtOH/water 1:1 (25 ml) and the mixture was refluxed for 4 hours. The mixture was then poured into ice/water/1N NaOH and extracted with ethyl acetate. The organic layer was washed with brine, dried and evaporated to give the crude product that was purified by flash chromatography (DCM/MeOH/NH4OH 98:2:0.25) to give the compound as a white foam (489 mg). MS (ESI): 309.4 (MH+).

reactant | Phenethyl-3-phenyl-piperidine-2,4-dione | 781 mg | C(CC1=CC=CC=C1)N1C(C(C(CC1)=O)C1=CC=CC=C1)=O | C19H19NO2
reactant | sodium acetate | 1.15 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 925 mg | Cl.NO
solvent | EtOH water | 25 ml | CCO.O
product | 1-Phenethyl-3-phenyl-piperidine-2,4-dione 4-oxime | 489 mg | C(CC1=CC=CC=C1)N1C(C(C(CC1)=NO)C1=CC=CC=C1)=O | C19H20N2O2
